US08372864B2
3.1: Base N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)penyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide
Poured into a suspension of 150 mg of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride (2:1), 101 mg of 1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid, 4 mg of hydroxybenzotriazole and 76 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 6 cm3 of dichloromethane is 0.217 cm3 of N,N-diisopropylethylamine at a temperature close to 20° C. The solution is kept stirring for 24 h at a temperature close to 20° C. 15 cm3 of water are added to the reaction medium. The organic phase is washed with 5 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). The product obtained is purified by flash chromatography over silica (column: 15 g; particle size: 120-40 μm, spherical; flow rate: 10 cm3/min; eluent: 100% ethyl acetate). After concentrating the fractions under reduced pressure, 140 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]-cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are obtained in the form of a colorless oil.

reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 150 mg | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
reactant | 1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 101 mg | O=C1N(CCC=2C(=CC=CC12)C(=O)O)C(CCC)CCC | C17H23NO3
reactant | hydroxybenzotriazole | 4 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 76 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.217 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 6 cm3 | ClCCl | CH2Cl2
solvent | water | 15 cm3 | O | H2O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)penyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)C(CCC)CCC)C=C(C1)F | C37H42F5N3O3
